US07576082B2
To the solution of 1-morpholin-4-yl-2-piperazin-1-yl-ethanone (0.5 g, 2.34 mmol) (Oakwood) in dichloromethane (15 mL) was added saturated sodium bicarbonate solution (15 mL). The reaction mixture was cooled to 0° C. and then followed by the dropwise addition of phosgene (20% in toluene, 2.22 mL, 4.21 mmol). The reaction mixture was allowed to warm up to room temperature. After stirring at room temperature for 30 minutes, the reaction mixture was extracted with dichloromethane three times. The combined organic layer was washed with water and brine, dried (Na2SO4), filtered and concentrated to give crude 4-(2-morpholin-4-yl-2-oxo-ethyl)-piperazine-1-carbonyl chloride as yellow oil and used for the next step without further purification.

reactant | 1-morpholin-4-yl-2-piperazin-1-yl-ethanone | 2.34 mmol, 0.5 g | N1(CCOCC1)C(CN1CCNCC1)=O | C10H19N3O2
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
reactant | phosgene | 4.21 mmol, 2.22 mL | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(2-morpholin-4-yl-2-oxo-ethyl)-piperazine-1-carbonyl chloride | N1(CCOCC1)C(CN1CCN(CC1)C(=O)Cl)=O | C11H18ClN3O3
